US07071184B2
c.(S)-2-{[1-((2R,5S,6S)-5-{(S)-2-[(1-Benzofuran-2-yl-methanoyl)-amino]-4-methyl-pentanoylamino}-6-hydroxy-2-methyl-azepan-1-yl)-methanoyl]-amino}-4-methyl-pentanoic acid methyl ester
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide (214 g, 1.12 mmol) was added to a solution of benzofuran-2-carboxylic acid (166 g, 1.02 mmol), (S)-2-({1-[(2R,5S)-5-((S)-2-Amino-4-methyl-pentanoylamino)-2-methyl-6-hydroxy-azepan-1-yl]-methanoyl}-amino)-4-methyl-pentanoic acid methyl ester (430 mg, 0.93 mmol), diisopropylethylamine (240 mg, 0.32 ml, 1.86 mmol), hydroxybenztriazole (151 mg, 1.12 mmol) in DMF (5 ml) and was stirred at RT overnight. The reaction mixture was stirred overnight. The reaction mixture was diluted with EtOAc (30 ml), washed with cold aq. 1N HCl, aq. sat. NaHCO3, and brine, and then dried with magnesium sulfate, filtered, concentrated in vacuo by rotary evaporation, and chromatographed (silica gel, 2% to 3% MeOH/CH2Cl2) to yield the title compound (478 mg, 84% for two steps): electrospray MS: 572.4

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide | 1.12 mmol, 214 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | benzofuran-2-carboxylic acid | 1.02 mmol, 166 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | (S)-2-({1-[(2R,5S)-5-((S)-2-Amino-4-methyl-pentanoylamino)-2-methyl-6-hydroxy-azepan-1-yl]-methanoyl}-amino)-4-methyl-pentanoic acid methyl ester | 0.93 mmol, 430 mg | COC([C@H](CC(C)C)NC(=O)N1[C@@H](CC[C@@H](C(C1)O)NC([C@H](CC(C)C)N)=O)C)=O | C21H40N4O5
reactant | diisopropylethylamine | 1.86 mmol, 0.32 ml, 240 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxybenztriazole | 1.12 mmol, 151 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | (S)-2-{[1-((2R,5S,6S)-5-{(S)-2-[(1-Benzofuran-2-yl-methanoyl)-amino]-4-methyl-pentanoylamino}-6-hydroxy-2-methyl-azepan-1-yl)-methanoyl]-amino}-4-methyl-pentanoic acid methyl ester | 478 mg, 84% | COC([C@H](CC(C)C)NC(=O)N1[C@@H](CC[C@@H]([C@H](C1)O)NC([C@H](CC(C)C)NC(=O)C=1OC2=C(C1)C=CC=C2)=O)C)=O | C30H44N4O7
